US06916956B2
2,2-Dimethyl-3-(naphthalen-2-yl)propionic acid
A solution of diisopropylamine (576 ml) in tetrahydrofuran (3.5 L) was cooled to −68° C., and a 2.6M n-butyllithium-n-hexane solution (1.5 L) was slowly added under an argon atmosphere. After addition of a solution of isobutyric acid (181 ml) in hexamethylphosphoramide (340 ml), the reaction mixture was stirred at room temperature for 30 min. After ice-cooling the mixture, a solution of 2-bromomethylnaphthalene (392 g) in tetrahydrofuran (1 L) was added dropwise, and the obtained solution was stirred at room temperature for 1 day. The reaction mixture was ice-cooled, 6N hydrochloric acid (665 ml) was added thereto, and the organic layer was separated from the aqueous layer. The separated organic layer was concentrated under reduced pressure to yield a residue. On the other hand, ethyl acetate and water were added to the aqueous layer and the organic layer was separated from the aqueous layer. The organic layer and the aforementioned residue were combined and washed three times with water. The organic layer was extracted with a solution of sodium hydroxide (80 g) in water (600 ml), and then extracted three times with a 4N aqueous sodium hydroxide solution (200 ml). The aqueous layer was washed with ethyl acetate, acidified with conc. hydrochloric acid, and extracted with ethyl acetate. The ethyl acetate layer was washed with aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give the title compound (177.5 g).

reactant | diisopropylamine | 576 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium n-hexane | 2.6M, 1.5 L | C(CCC)[Li].CCCCCC
reactant | isobutyric acid | 181 ml | C(C(C)C)(=O)O | C4H8O2
reactant | 2-bromomethylnaphthalene | 392 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | hydrochloric acid | 6N, 665 ml | Cl | ClH
solvent | tetrahydrofuran | 3.5 L | O1CCCC1 | C4H8O
solvent | hexamethylphosphoramide | 340 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | tetrahydrofuran | 1 L | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,2-Dimethyl-3-(naphthalen-2-yl)propionic acid | 177.5 g | CC(C(=O)O)(CC1=CC2=CC=CC=C2C=C1)C | C15H16O2
